US05120728
B. 7-amino-3-(3-fluoro-4,5-dihydroxyphenyl) methyl-3-cephem-4-carboxylic acid
3-fluorocatechol 1.0 g was dissolved in 15% borontrifluoride acetonitrile solution. To the solution was added 7-aminocephalosporanic acid at 5° C. After the stirring for 40 hours at room temperature, the reaction mixture was concentrated to dryness and dissolved in water with the addition of sodium bicarbonate pH 7.0). The solution was washed with ethyl acetate and acidified with 6N-hydrochloric acid to pH The resulting crude crystals were collected by filtration and washed with water to give a mixture of the title compounds (1.74 g). The isolation and purification by high performance liquid chromatography (eluent; 3% acetonitrile in potassium phosphate buffer pH 6.0, column; ODS) gave the fractions of A and B as the order of elution. Each fraction was concentrated to dryness and the resulting solids were slurried in N,N-dimethylacetamide and filtered, respectively. Each DMAc solutions of title compounds A and B were submitted to the next step (Exp. 9 and Exp. 10) without further purification.

reactant | 3-fluorocatechol | 1.0 g | FC1=C(C(O)=CC=C1)O | C6H5FO2
reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
solvent | borontrifluoride acetonitrile | C(C)#N.B(F)(F)F
product | 7-amino-3-(3-fluoro-4,5-dihydroxyphenyl) methyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CC2=CC(=C(C(=C2)O)O)F)C(=O)O)C1=O | C14H13FN2O5S
